US04863958
To a solution of 2-carboethoxy-3-methyl-4-hydroxy-5-propyl-7-fluorobenzofuran (1.0 gm, 3.6 mmoles) in methanol (100 mL) was added 2N sodium hydroxide (10 mL) and the resulting solution was refluxed for a period of 4.5 hours. The reaction mixture was concentrated in vacuo. The residue was acidified with 3N hydrochloric acid and then extracted with ethylacetate. The organic phase was dried (Na2SO4), concentrated in vacuo, and 3 methyl-4 hydroxy 5 propyl 7 -fluorobenzofuran-carboxylic acid (0.79 gm; 88%) was isolated by filtering the solid after suspending in hexane.

reactant | 2-carboethoxy-3-methyl-4-hydroxy-5-propyl-7-fluorobenzofuran | 3.6 mmoles, 1.0 gm | C(=O)(OCC)C=1OC2=C(C1C)C(=C(C=C2F)CCC)O | C15H17FO4
reactant | sodium hydroxide | 2N, 10 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | methyl-4 hydroxy 5 propyl 7 -fluorobenzofuran-carboxylic acid | 0.79 gm, 88% | CC1=C(OC2=C1C(=C(C=C2F)CCC)O)C(=O)O | C13H13FO4
